US05182272
200 parts of 4-chloro-3-nitrobenzotrifluoride is heated to 160° C. and stirred and 160 parts of the potassium salt of salicylaldehyde is added over a period of 30 minutes. After the addition is complete, an exothermic reaction takes place and the temperature rises to about 195° C. Heating is then discontinued until the reaction subsides and the mixture is then heated for 1 hour at 150° C. The mixture is cooled, ice and water are added, and it is then extracted With ether. The ether layer is filtered to remove insoluble material and the resultant solution is dried over sodium sulfate. The ether solvent is then evaporated and the residual oil is recrystallized from a mixture of hexane and benzene to give 2-(2-nitro-4-trifluoromethyl-phenoxy)benzaldehyde melting at about 79°-81° C.

reactant | 4-chloro-3-nitrobenzotrifluoride | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | potassium | [K] | K
reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | water | O | H2O
product | 2-(2-nitro-4-trifluoromethyl-phenoxy)benzaldehyde | [N+](=O)([O-])C1=C(OC2=C(C=O)C=CC=C2)C=CC(=C1)C(F)(F)F | C14H8F3NO4
